US07709511B2
a) tert-Butyl 4-[(2-hydroxyethyl)amino]piperidine-1-carboxylate
A slurry of 10% palladium on charcoal (catalytic) in dry ethanol (3 mL) and acetic acid (5 drops) was added to a solution of ethanolamine (0.24 mL) and tert-butyl 4-oxopiperidine-1-carboxylate (0.80 g) in dry ethanol (10 mL) and hydrogenated at 2 bar for 26 hours. The solution was filtered through a glass fibre filter and the filtrate concentrated in vacuo to give the sub-titled compound (0.98 g) as a pale yellow oil.

reactant | ethanolamine | 0.24 mL | C(O)CN | C2H7NO
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 0.80 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-Butyl 4-[(2-hydroxyethyl)amino]piperidine-1-carboxylate | 0.98 g | OCCNC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O3
